US07582633B2
Step 1: tert-Butyl 3-(2-bromo-5-fluorophenoxy)azetidine-1-carboxylate
To a solution of Boc-3-hydroxyazetidine (1.50 g, 8.67 mmol) in DMF (9.1 mL) was added 1 M potassium tert-butoxide in THF (9.96 mL, 9.96 mmol) followed by 1-bromo-2,4-difluorobenzene (2.50 g, 13.0 mmol). After a period of 1 h at 50° C., the reaction mixture was partitioned between ethyl acetate and saturated ammonium chloride. The organic phase was separated, dried over sodium sulfate, filtered and evaporated under reduced pressure. The residue was purified by flash chromatography (15% ethyl acetate in hexane) to provide the title compound as a white solid.

reactant | Boc-3-hydroxyazetidine | 8.67 mmol, 1.50 g | C(=O)(OC(C)(C)C)N1CC(C1)O | C8H15NO3
reactant | potassium tert-butoxide | 1 M | CC(C)([O-])C.[K+]
reactant | THF | 9.96 mmol, 9.96 mL | C1CCOC1 | C4H8O
reactant | 1-bromo-2,4-difluorobenzene | 13.0 mmol, 2.50 g | BrC1=C(C=C(C=C1)F)F | C6H3BrF2
solvent | DMF | 9.1 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-(2-bromo-5-fluorophenoxy)azetidine-1-carboxylate | BrC1=C(OC2CN(C2)C(=O)OC(C)(C)C)C=C(C=C1)F | C14H17BrFNO3
